US09340538B2
Step A: Isopropyl morpholine-3-carboxylate hydrochloride
To a suspension of morpholine-3-carboxylic acid hydrochloride (2 g, 12 mmol) in isopropanol (30 mL) was added SOCl2 (1.9 g, 15.6 mmol) at 5° C., then the mixture was stirred at 80° C. for 6 hours. The mixture was concentrated in vacuo to give the title compound as pale brown oil (2.39 g, 95%). The compound was characterized by the following spectroscopic data:

reactant | morpholine-3-carboxylic acid hydrochloride | 12 mmol, 2 g | Cl.N1C(COCC1)C(=O)O
reactant | SOCl2 | 15.6 mmol, 1.9 g | O=S(Cl)Cl | Cl2OS
reactant | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | Isopropyl morpholine-3-carboxylate hydrochloride | 2.39 g, 95% | Cl.N1C(COCC1)C(=O)OC(C)C | InChI=1S/C8H15NO3.ClH/c1-6(2)12-8(10)7-5-11-4-3-9-7;/h6-7,9H,3-5H2,1-2H3;1H
